US07250410B2
7,8-dimethoxy-3-(1H-indol-3-ylmethyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, XXIIas.
By replacing ethyl glycinate hydrochloride in example XXIIaa by ethyl tryptophanate dihydrochloride and proceeding in the same manner, the abovenamed product is obtained. Yield: 10%. M: 180–185° C. 1H-NMR (DMSO, 200 MHz): d 3.44–3.57 (m, 5H, 1CH2+OCH3), 3.83 (s, 3H, OCH3), 4.35–4.41 (m, 1H, CH), 6.64 (s, 1H Ar), 6.80 (s, 1H Ar), 6.97–7.07 (m, 2H Ar), 7.21–7.63 (m, 7H Ar), 10.37 (s, 1H, NH), 10.83 (s, 1H, NH Indole). Mass: (M+H)+=426.19.

reactant | ethyl glycinate hydrochloride | Cl.NCC(=O)OCC
reactant | ethyl tryptophanate dihydrochloride | Cl.Cl.N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OCC
product | 7,8-dimethoxy-3-(1H-indol-3-ylmethyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 10% | COC=1C(=CC2=C(C(=NC(C(N2)=O)CC2=CNC3=CC=CC=C23)C2=CC=CC=C2)C1)OC | C26H23N3O3
